US07820664B2
Step E: 5-(Cyclopropylsulfonyl)-8-fluoro-7-(2-fluoro-4-iodophenyl)-3-methyl-5H-imidazo[4,5-b]isoxazolo[3,4-e]pyridin-6(7H)-one:
To a solution of 8-fluoro-7-(2-fluoro-4-iodophenyl)-3-methyl-5H-imidazo[4,5-b]isoxazolo[3,4-e]pyridin-6(7H)-one (143 mg, 0.33 mmol) in THF (10 ml) at −78° C. is added LiHMDS (0.38 ml, 1 M in THF, 0.38 mmol). The reaction mixture is stirred at −78° C. for 10 min and cyclopropylsulfonyl chloride (69 mg, 0.50 mmol) is added to the mixture. The reaction is slowly warmed to room temperature and stirred at the temperature for 16 h. The reaction is quenched with saturated aqueous NH4Cl solution (20 ml) and extracted with EtOAc (2×20 ml). The combined organic solution is washed with brine (20 ml), dried over MgSO4 and concentrated. Silica gel chromatography yields the title compound.

reactant | 8-fluoro-7-(2-fluoro-4-iodophenyl)-3-methyl-5H-imidazo[4,5-b]isoxazolo[3,4-e]pyridin-6(7H)-one | 0.33 mmol, 143 mg | FC1=C2C(=NC=3C1=NOC3C)NC(N2C2=C(C=C(C=C2)I)F)=O | C14H7F2IN4O2
reactant | LiHMDS | 0.38 mmol, 1 M, 0.38 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | cyclopropylsulfonyl chloride | 0.50 mmol, 69 mg | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 5-(Cyclopropylsulfonyl)-8-fluoro-7-(2-fluoro-4-iodophenyl)-3-methyl-5H-imidazo[4,5-b]isoxazolo[3,4-e]pyridin-6(7H)-one | C1(CC1)S(=O)(=O)N1C(N(C=2C1=NC=1C(C2F)=NOC1C)C1=C(C=C(C=C1)I)F)=O | C17H11F2IN4O4S
